data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7280,"C[Si:1](C)(C)C[C+]=C1CC(C2=CC=CC=C2)CC1[O][Zn-]([Cl])[Cl].[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,6325,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O.OC1CCCCC12OCC[O+:2]2[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3355,"C=CC(C)C(C1=CC=CC=C1)[O:1][B-]1(OCCN(CCO)CCO)OC(C)(C)C(C)(C)O1.OCC[N+:2](CCO)(CCO)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5014,"C[Si](C)(C)C=[C:1]=[CH2:2].O=C[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7342,"CCC(C=O)(CCCNC(=O)CCl)CCC1([OH:1])CC2=C(C=CC=C2)N1.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4819,"C[C+:1](C)CCC[C:2]1=[CH:3]CCC1.O|((2, 3), 1)"
train,pmechdb_split_0,0,9004,"NC1=C(CC#[C-:1])C=CC=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4138,"[PH3+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,2270,"CCC1CCC(C)([OH+:1][H:2])C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5068,"CC(=O)CC[C:1](C)=[O:2].CC1=CC=C(S(=O)(=O)O)C=C1.O=[N+]([O-])C1=CC([NH2:3])=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3498,"CCCCCC1=CC([OH:1])=C(C2C=C(C)CCC2[C+:2](C)C)C(O)=C1.O|(1, 2)"
train,pmechdb_split_0,0,8247,"CC(=O)[O-:1].CCCCCC([O-])(Cl)[NH+:2](C(CO)C(O)C=CC1=CC=CS1)[H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,718,"CC(=O)CC[CH:1]=[C:2](N)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,3810,"CC(C)(C)[Si](OCC=[N+:1](C(CC#N)CC1=CNC2=CC=CC=C12)[H:2])(C1=CC=CC=C1)C1=CC=CC=C1.N#CCC(CC1=CNC2=C1C=CC=C2)[NH2:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5337,"CCC(O)=[NH:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3930,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2706,"CC(=O)[CH:1]=[CH2:2].CO.C[C-:3]1C(=O)CCCC1=O.C[OH+][Na]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9780,"CC[NH:1]C(C)NC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4937,"CO[P:1](OC)OC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2897,"C1=CC=[N+:1]([H:2])C=C1.C1CC[CH:3]=[C:4]([OH:5])C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4574,"CC1=CC=C(C(=O)[O-:1])C=C1.C[Si]1(C)CCC(O)[CH+:2]C1|(1, 2)"
train,pmechdb_split_0,0,4922,"C1CO[C:1]([O-:2])([Cl:3])O1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8487,"[AlH3-][O]CC=CC[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,1554,"C[O+](C)[Si-:1](C)(C)(C)[CH2:2][CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,7962,"[AlH3:1].[O-]CC=CC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3830,"CC(=O)[O:1][H:2].CC1([OH:3])CC2=C(CCCC2=O)N1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4949,"OCC=CCC1=C([NH:1][N:2]=[O:3])C=CC=C1.[H:4][Br:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6136,"CC(C)(C)[O-:1].CC[CH:2]([C:3](C)(C)[H:4])[Br:5]|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,467,"C[C:1]1([OH2+:2])CCCC1|((1, 2), 2)"
train,pmechdb_split_0,0,8285,"N#CC1=CO[C:1](Br)([H:2])[CH+:3]1.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9272,"CO.C[OH+:1][CH2:2][NH:3]CCC1=CC=CC=C1.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8294,"C[Si:1](C)(C)[OH2+].[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,5652,"CCNCCC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5797,"C1=CC=CC=C1.CC(C[OH:1])[O+:2]=[CH:3]C1=CC=C([N+](=O)[O-])C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2520,"CC1C[CH+:1]C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)CO1.C[O+]1CC[O][Ti-2]1([Cl])([Cl])([Cl])[Cl:2]|(2, 1)"
train,pmechdb_split_0,0,2053,"C1=CC=CC=C1.CC(=O)CC[C:1](C)([NH:2]CCOCCO)[OH2+:3].CC(=O)[O-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5283,"C=CCN1CCC23C4=C5C=CC(OC)=C4OC2C(OC)(OC)[CH:1]([Br:2])[CH:3]([H:4])C3C1C5.CC(C)(C)[O-:5].CS(C)=O.[K+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7603,"CC[O-:1].C[P+:2](C)(C)I|(1, 2)"
train,pmechdb_split_0,0,4032,"CCC([O-])[O+:1](C)[K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,1392,"[AlH3:1].[H][H].[Li][O:2]N=CC|(2, 1)"
train,pmechdb_split_0,0,7160,"CCOC(C)(O)[O:1]C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4218,"C1=CC=C([C:1]#[CH:2])C=C1.[H:3][F:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5548,"C[C:1](C)([CH-:2]C#N)[OH:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8378,"CC(=O)C1=C([NH2+]C(=O)C(CC2=CC=CC=C2)[NH-:1])C=CC=C1.O=C(C(F)(F)F)[O:2][H:3].O=C=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3320,"C1=CC=[NH+]C=C1.CCC(=O)O.CCC(=O)[O:1][C:2]1([O-:3])OC(CC)=NC1CC1CCCCC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7961,"CC(C)(O)C[NH+:1](C1(Cl)C2=C(C=CC=C2)N=C(Cl)C1=[N+]([O-])[O-])[H:2].CC(C)(O)C[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5863,"O[CH:1]=[OH+:2].[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7443,"C[S:1](O)=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6693,"COC1=C2OC3C45CCN(CC6=CC=CC=C6)C(CC(=C24)C=C1)C5(O)CC[C:1]3=[O:2].N[NH2:3].O.OCCOCCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,446,"C=CCC(CC=C)C(C(C)C)[O-:1].[Li+:2]|(1, 2)"
